US07812017B2
4-Bromo-1-(2-thienylsulfonyl)-1H-indole
Aq. 2.5M NaOH (3 mL) was added to a stirring mixture of 2-thiophenesulfonyl chloride (1.03 g, 5.61 mmol), 4-bromoindole (1.00 g, 5.10 mmol) and tetrabutylammonium hydrogen sulfate (87 mg, 0.05 mmol). The reaction was stirred over night (22 h). Additional 2-thiophenesulfonyl chloride (50 mg, 0.27 mmol) was added with continuous stirring for 3 h. The layers were allowed to separate. The organic layer was washed twice with water, dried and concentrated to get the title compound (1.67 g, 96%) as a gray solid.

reactant | NaOH | 2.5M, 3 mL | [OH-].[Na+]
reactant | 2-thiophenesulfonyl chloride | 5.61 mmol, 1.03 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 4-bromoindole | 5.10 mmol, 1.00 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
catalyst | tetrabutylammonium hydrogen sulfate | 0.05 mmol, 87 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | 2-thiophenesulfonyl chloride | 0.27 mmol, 50 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 4-Bromo-1-(2-thienylsulfonyl)-1H-indole | 1.67 g, 96% | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C=1SC=CC1 | C12H8BrNO2S2
